US04338121
N-methyl-2-(4-methyl-2,6-dinitroanilino)propionohydroxamic acid (3) and its D-isomer (4)
A solution of 2.0 g of 2-(4-methyl-2,6-dinitroanilino)propionyl chloride, prepared as in Example 1, in 50 ml of methylene chloride was added dropwise to a stirred solution of 2.0 g of N-methylhydroxylamine hydrochloride and 6.0 g of sodium acetate in 50 ml of water at 0°-5° C. The mixture was stirred for 2 hours, after which the organic layer was spearated, dried and evaporated to dryness. The yellow residue was recrystallised from benzene to give 3, m.p.: 171°-172° C.

reactant | 2-(4-methyl-2,6-dinitroanilino)propionyl chloride | 2.0 g | CC1=CC(=C(NC(C(=O)Cl)C)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C10H10ClN3O5
reactant | N-methylhydroxylamine hydrochloride | 2.0 g | Cl.CNO
reactant | sodium acetate | 6.0 g | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | N-methyl-2-(4-methyl-2,6-dinitroanilino)propionohydroxamic acid | CN(O)C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O | C11H14N4O6
